US08431575B2
3-Butyl-4-(4-cyclohexyloxy-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine 2-oxide hydrochloride
To a solution of 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine 2-oxide hydrochloride (0.162 mmol, 74.8 mg) in DCM (1.5 mL) was added formaldehyde solution in water (37%, 0.5 mmol, 0.372 mL), and 1 drop of acetic acid. It was stirred for 80 min. and sodium triacetoxyborohydride (0.65 mmol, 145 mg, 95%) was added. The reaction mixture was stirred at room temperature for 80 min. and partitioned between ethyl acetate (8 mL) and saturated aq. sodium bicarbonate solution (8 mL). The ethyl acetate layer was separated and dried over sodium sulfate. The organic solvent was removed in vacuo and the residue was dissolved in DCM and treated with 4 N HCl in dioxane. The organic solvents were removed in vacuo and the residue was triturated with anhydrous diethyl ether and hexanes. The off-white solid was dried overnight under high vacuum to provide the title compound (69.3 mg). LCMS: m/z 441 [M+1] 1H NMR (400 MHz, CD3OD) δ 7.28-7.32 (2H, m), 7.05-7.07 (2H, m), 6.79 and 6.88 (1H, s), 5.15-5.34 (1H, m), 4.38-4.43 (1H, m), 3.23-3.65 (4H, m), 2.92 (3H, s), 2.80-2.84 (2H, m), 2.47-2.56 (1H, m), 2.38 (1H, d), 2.08-2.21 (1H, m), 1.89-2.05 (3H, m), 1.81 (2H, m), 1.21-1.66 (10H, m) 0.82 (3H, t).

reactant | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine 2-oxide hydrochloride | 0.162 mmol, 74.8 mg | Cl.C(CCC)C=1[N+](=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OC1CCNCC1)[O-]
reactant | formaldehyde | C=O | CH2O
reactant | water | 0.5 mmol, 0.372 mL | O | H2O
reactant | sodium triacetoxyborohydride | 0.65 mmol, 145 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 3-Butyl-4-(4-cyclohexyloxy-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine 2-oxide hydrochloride | 69.3 mg | Cl.C(CCC)C=1[N+](=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OC1CCN(CC1)C)[O-] | InChI=1S/C26H37N3O3.ClH/c1-3-4-10-25-24(19-26(27-29(25)30)32-23-15-17-28(2)18-16-23)20-11-13-22(14-12-20)31-21-8-6-5-7-9-21;/h11-14,19,21,23H,3-10,15-18H2,1-2H3;1H
